// File: NAND2X1.spi.pex
// Created: Tue Apr 29 10:43:14 2025
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// Nominal Temperature: 30C
// Circuit Temperature: 30C
// 
simulator lang=spectre
subckt PM_NAND2X1\%GND ( 1 9 13 16 26 30 )
c37 ( 30 0 ) capacitor c=0.0208405f //x=1.48 //y=1.045
c38 ( 29 0 ) capacitor c=0.00446416f //x=1.67 //y=0.175
c39 ( 26 0 ) capacitor c=0.278723f //x=3.08 //y=0.18
c40 ( 16 0 ) capacitor c=0.198174f //x=1.23 //y=0.18
c41 ( 13 0 ) capacitor c=0.0430284f //x=1.585 //y=0.175
c42 ( 9 0 ) capacitor c=0.181724f //x=3.08 //y=0.18
r43 (  24 26 ) resistor r=25.8093 //w=0.367 //l=0.74 //layer=li \
 //thickness=0.1 //x=2.34 //y=0.175 //x2=3.08 //y2=0.175
r44 (  22 29 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=1.755 //y=0.175 //x2=1.67 //y2=0.175
r45 (  22 24 ) resistor r=20.4033 //w=0.367 //l=0.585 //layer=li \
 //thickness=0.1 //x=1.755 //y=0.175 //x2=2.34 //y2=0.175
r46 (  17 29 ) resistor r=4.23183 //w=0.7 //l=0.175 //layer=li //thickness=0.1 \
 //x=1.67 //y=0.35 //x2=1.67 //y2=0.175
r47 (  17 30 ) resistor r=53.7326 //w=0.187 //l=0.785 //layer=li \
 //thickness=0.1 //x=1.67 //y=0.35 //x2=1.67 //y2=1.135
r48 (  13 29 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=1.585 //y=0.175 //x2=1.67 //y2=0.175
r49 (  13 16 ) resistor r=12.3815 //w=0.367 //l=0.355 //layer=li \
 //thickness=0.1 //x=1.585 //y=0.175 //x2=1.23 //y2=0.175
r50 (  9 26 ) resistor r=4.65 //w=0.17 //l=0.34 //layer=mcon //count=2 \
 //x=3.08 //y=0.18 //x2=3.08 //y2=0.18
r51 (  7 24 ) resistor r=3.1 //w=0.17 //l=0.51 //layer=mcon //count=3 //x=2.34 \
 //y=0.18 //x2=2.34 //y2=0.18
r52 (  7 9 ) resistor r=0.297428 //w=0.311 //l=0.74 //layer=m1 \
 //thickness=0.36 //x=2.34 //y=0.175 //x2=3.08 //y2=0.175
r53 (  3 16 ) resistor r=3.1 //w=0.17 //l=0.51 //layer=mcon //count=3 //x=1.23 \
 //y=0.18 //x2=1.23 //y2=0.18
r54 (  1 7 ) resistor r=0.0743569 //w=0.311 //l=0.185 //layer=m1 \
 //thickness=0.36 //x=2.155 //y=0.175 //x2=2.34 //y2=0.175
r55 (  1 3 ) resistor r=0.371785 //w=0.311 //l=0.925 //layer=m1 \
 //thickness=0.36 //x=2.155 //y=0.175 //x2=1.23 //y2=0.175
ends PM_NAND2X1\%GND

subckt PM_NAND2X1\%VDD ( 1 9 21 29 44 47 48 49 50 )
c35 ( 50 0 ) capacitor c=0.0383754f //x=2.895 //y=5.2
c36 ( 49 0 ) capacitor c=0.0243053f //x=2.015 //y=5.2
c37 ( 48 0 ) capacitor c=0.0531988f //x=1.145 //y=5.2
c38 ( 47 0 ) capacitor c=0.262707f //x=3.08 //y=7.58
c39 ( 45 0 ) capacitor c=0.00597439f //x=2.16 //y=7.585
c40 ( 44 0 ) capacitor c=0.267398f //x=1.23 //y=7.58
c41 ( 29 0 ) capacitor c=0.0287734f //x=2.955 //y=7.585
c42 ( 21 0 ) capacitor c=0.0289072f //x=2.075 //y=7.585
c43 ( 9 0 ) capacitor c=0.189176f //x=3.08 //y=7.58
r44 (  33 47 ) resistor r=4.23183 //w=0.7 //l=0.175 //layer=li //thickness=0.1 \
 //x=3.04 //y=7.41 //x2=3.04 //y2=7.585
r45 (  33 50 ) resistor r=33.1979 //w=0.187 //l=0.485 //layer=li \
 //thickness=0.1 //x=3.04 //y=7.41 //x2=3.04 //y2=6.925
r46 (  30 45 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=2.245 //y=7.585 //x2=2.16 //y2=7.585
r47 (  30 32 ) resistor r=3.31335 //w=0.367 //l=0.095 //layer=li \
 //thickness=0.1 //x=2.245 //y=7.585 //x2=2.34 //y2=7.585
r48 (  29 47 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=2.955 //y=7.585 //x2=3.04 //y2=7.585
r49 (  29 32 ) resistor r=21.4496 //w=0.367 //l=0.615 //layer=li \
 //thickness=0.1 //x=2.955 //y=7.585 //x2=2.34 //y2=7.585
r50 (  23 45 ) resistor r=4.23183 //w=0.7 //l=0.175 //layer=li //thickness=0.1 \
 //x=2.16 //y=7.41 //x2=2.16 //y2=7.585
r51 (  23 49 ) resistor r=33.1979 //w=0.187 //l=0.485 //layer=li \
 //thickness=0.1 //x=2.16 //y=7.41 //x2=2.16 //y2=6.925
r52 (  22 44 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=1.365 //y=7.585 //x2=1.28 //y2=7.585
r53 (  21 45 ) resistor r=2.87058 //w=0.35 //l=0.085 //layer=li \
 //thickness=0.1 //x=2.075 //y=7.585 //x2=2.16 //y2=7.585
r54 (  21 22 ) resistor r=24.7629 //w=0.367 //l=0.71 //layer=li \
 //thickness=0.1 //x=2.075 //y=7.585 //x2=1.365 //y2=7.585
r55 (  15 44 ) resistor r=4.23183 //w=0.7 //l=0.175 //layer=li //thickness=0.1 \
 //x=1.28 //y=7.41 //x2=1.28 //y2=7.585
r56 (  15 48 ) resistor r=56.4706 //w=0.187 //l=0.825 //layer=li \
 //thickness=0.1 //x=1.28 //y=7.41 //x2=1.28 //y2=6.585
r57 (  9 47 ) resistor r=4.65 //w=0.17 //l=0.34 //layer=mcon //count=2 \
 //x=3.08 //y=7.58 //x2=3.08 //y2=7.58
r58 (  7 32 ) resistor r=3.1 //w=0.17 //l=0.51 //layer=mcon //count=3 //x=2.34 \
 //y=7.58 //x2=2.34 //y2=7.58
r59 (  7 9 ) resistor r=0.297428 //w=0.311 //l=0.74 //layer=m1 \
 //thickness=0.36 //x=2.34 //y=7.585 //x2=3.08 //y2=7.585
r60 (  3 44 ) resistor r=3.1 //w=0.17 //l=0.51 //layer=mcon //count=3 //x=1.23 \
 //y=7.58 //x2=1.23 //y2=7.58
r61 (  1 7 ) resistor r=0.0743569 //w=0.311 //l=0.185 //layer=m1 \
 //thickness=0.36 //x=2.155 //y=7.585 //x2=2.34 //y2=7.585
r62 (  1 3 ) resistor r=0.371785 //w=0.311 //l=0.925 //layer=m1 \
 //thickness=0.36 //x=2.155 //y=7.585 //x2=1.23 //y2=7.585
ends PM_NAND2X1\%VDD

subckt PM_NAND2X1\%A ( 1 2 3 4 5 6 7 9 21 22 23 24 25 26 27 31 33 36 37 47 )
c55 ( 47 0 ) capacitor c=0.0667949f //x=1.6 //y=4.88
c56 ( 37 0 ) capacitor c=0.0318948f //x=1.935 //y=1.39
c57 ( 36 0 ) capacitor c=0.0187384f //x=1.935 //y=1.045
c58 ( 33 0 ) capacitor c=0.0141798f //x=1.78 //y=1.545
c59 ( 31 0 ) capacitor c=0.0149844f //x=1.78 //y=0.89
c60 ( 27 0 ) capacitor c=0.0860049f //x=1.405 //y=2.095
c61 ( 26 0 ) capacitor c=0.0229722f //x=1.405 //y=1.7
c62 ( 25 0 ) capacitor c=0.0234352f //x=1.405 //y=1.39
c63 ( 24 0 ) capacitor c=0.0199343f //x=1.405 //y=1.045
c64 ( 23 0 ) capacitor c=0.110275f //x=1.94 //y=6.2
c65 ( 22 0 ) capacitor c=0.154305f //x=1.5 //y=6.2
c66 ( 9 0 ) capacitor c=0.116968f //x=1.6 //y=2.26
r67 (  45 47 ) resistor r=20.6867 //w=0.233 //l=0.1 //layer=ply \
 //thickness=0.18 //x=1.5 //y=4.88 //x2=1.6 //y2=4.88
r68 (  38 47 ) resistor r=70.3348 //w=0.233 //l=0.414367 //layer=ply \
 //thickness=0.18 //x=1.94 //y=5.045 //x2=1.6 //y2=4.88
r69 (  37 49 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.935 //y=1.39 //x2=1.895 //y2=1.545
r70 (  36 48 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.935 //y=1.045 //x2=1.895 //y2=0.89
r71 (  36 37 ) resistor r=176.904 //w=0.094 //l=0.345 //layer=ply \
 //thickness=0.18 //x=1.935 //y=1.045 //x2=1.935 //y2=1.39
r72 (  34 44 ) resistor r=10.701 //w=0.21 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.56 //y=1.545 //x2=1.445 //y2=1.545
r73 (  33 49 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.78 //y=1.545 //x2=1.895 //y2=1.545
r74 (  32 43 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.56 //y=0.89 //x2=1.445 //y2=0.89
r75 (  31 48 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=1.78 //y=0.89 //x2=1.895 //y2=0.89
r76 (  31 32 ) resistor r=112.809 //w=0.094 //l=0.22 //layer=ply \
 //thickness=0.18 //x=1.78 //y=0.89 //x2=1.56 //y2=0.89
r77 (  28 45 ) resistor r=13.0941 //w=0.233 //l=0.165 //layer=ply \
 //thickness=0.18 //x=1.5 //y=5.045 //x2=1.5 //y2=4.88
r78 (  27 42 ) resistor r=34.8111 //w=0.27 //l=0.264953 //layer=ply \
 //thickness=0.18 //x=1.405 //y=2.095 //x2=1.6 //y2=2.26
r79 (  26 44 ) resistor r=39.5823 //w=0.21 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.405 //y=1.7 //x2=1.445 //y2=1.545
r80 (  26 27 ) resistor r=202.543 //w=0.094 //l=0.395 //layer=ply \
 //thickness=0.18 //x=1.405 //y=1.7 //x2=1.405 //y2=2.095
r81 (  25 44 ) resistor r=39.5823 //w=0.21 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.405 //y=1.39 //x2=1.445 //y2=1.545
r82 (  24 43 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=1.405 //y=1.045 //x2=1.445 //y2=0.89
r83 (  24 25 ) resistor r=176.904 //w=0.094 //l=0.345 //layer=ply \
 //thickness=0.18 //x=1.405 //y=1.045 //x2=1.405 //y2=1.39
r84 (  23 38 ) resistor r=592.245 //w=0.094 //l=1.155 //layer=ply \
 //thickness=0.18 //x=1.94 //y=6.2 //x2=1.94 //y2=5.045
r85 (  22 28 ) resistor r=592.245 //w=0.094 //l=1.155 //layer=ply \
 //thickness=0.18 //x=1.5 //y=6.2 //x2=1.5 //y2=5.045
r86 (  21 33 ) resistor r=56.4043 //w=0.094 //l=0.11 //layer=ply \
 //thickness=0.18 //x=1.67 //y=1.545 //x2=1.78 //y2=1.545
r87 (  21 34 ) resistor r=56.4043 //w=0.094 //l=0.11 //layer=ply \
 //thickness=0.18 //x=1.67 //y=1.545 //x2=1.56 //y2=1.545
r88 (  19 47 ) resistor r=152 //w=0.17 //l=0.17 //layer=licon //count=1 \
 //x=1.6 //y=4.88 //x2=1.6 //y2=4.88
r89 (  9 42 ) resistor r=152 //w=0.17 //l=0.17 //layer=licon //count=1 //x=1.6 \
 //y=2.26 //x2=1.6 //y2=2.26
r90 (  7 19 ) resistor r=17.7968 //w=0.187 //l=0.26 //layer=li //thickness=0.1 \
 //x=1.6 //y=4.62 //x2=1.6 //y2=4.88
r91 (  6 7 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=1.6 //y=4.25 //x2=1.6 //y2=4.62
r92 (  5 6 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=1.6 //y=3.88 //x2=1.6 //y2=4.25
r93 (  4 5 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=1.6 //y=3.51 //x2=1.6 //y2=3.88
r94 (  3 4 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=1.6 //y=3.14 //x2=1.6 //y2=3.51
r95 (  2 3 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=1.6 //y=2.77 //x2=1.6 //y2=3.14
r96 (  1 2 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=1.6 //y=2.4 //x2=1.6 //y2=2.77
r97 (  1 9 ) resistor r=9.58289 //w=0.187 //l=0.14 //layer=li //thickness=0.1 \
 //x=1.6 //y=2.4 //x2=1.6 //y2=2.26
ends PM_NAND2X1\%A

subckt PM_NAND2X1\%B ( 1 2 3 4 5 6 7 8 10 21 22 23 24 25 26 31 33 35 41 42 44 \
 45 48 )
c62 ( 48 0 ) capacitor c=0.034715f //x=2.37 //y=4.88
c63 ( 45 0 ) capacitor c=0.0279499f //x=2.34 //y=2.095
c64 ( 44 0 ) capacitor c=0.0437302f //x=2.34 //y=2.26
c65 ( 42 0 ) capacitor c=0.0429696f //x=2.905 //y=1.43
c66 ( 41 0 ) capacitor c=0.0192208f //x=2.905 //y=1.085
c67 ( 35 0 ) capacitor c=0.0158629f //x=2.75 //y=1.585
c68 ( 33 0 ) capacitor c=0.0157803f //x=2.75 //y=0.93
c69 ( 31 0 ) capacitor c=0.0366192f //x=2.745 //y=4.97
c70 ( 26 0 ) capacitor c=0.0205163f //x=2.375 //y=1.74
c71 ( 25 0 ) capacitor c=0.0168481f //x=2.375 //y=1.43
c72 ( 24 0 ) capacitor c=0.0174783f //x=2.375 //y=1.085
c73 ( 23 0 ) capacitor c=0.15358f //x=2.82 //y=6.2
c74 ( 22 0 ) capacitor c=0.110281f //x=2.38 //y=6.2
c75 ( 10 0 ) capacitor c=0.0822126f //x=2.34 //y=2.26
c76 ( 8 0 ) capacitor c=0.00453889f //x=2.34 //y=4.715
r77 (  50 51 ) resistor r=32.4568 //w=0.214 //l=0.075 //layer=ply \
 //thickness=0.18 //x=2.37 //y=4.97 //x2=2.37 //y2=5.045
r78 (  48 50 ) resistor r=20.271 //w=0.214 //l=0.09 //layer=ply \
 //thickness=0.18 //x=2.37 //y=4.88 //x2=2.37 //y2=4.97
r79 (  44 45 ) resistor r=52.7279 //w=0.214 //l=0.165 //layer=ply \
 //thickness=0.18 //x=2.34 //y=2.26 //x2=2.34 //y2=2.095
r80 (  42 55 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=2.905 //y=1.43 //x2=2.865 //y2=1.585
r81 (  41 54 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=2.905 //y=1.085 //x2=2.865 //y2=0.93
r82 (  41 42 ) resistor r=176.904 //w=0.094 //l=0.345 //layer=ply \
 //thickness=0.18 //x=2.905 //y=1.085 //x2=2.905 //y2=1.43
r83 (  36 53 ) resistor r=10.701 //w=0.21 //l=0.115 //layer=ply \
 //thickness=0.18 //x=2.53 //y=1.585 //x2=2.415 //y2=1.585
r84 (  35 55 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=2.75 //y=1.585 //x2=2.865 //y2=1.585
r85 (  34 52 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=2.53 //y=0.93 //x2=2.415 //y2=0.93
r86 (  33 54 ) resistor r=5.52526 //w=0.168 //l=0.115 //layer=ply \
 //thickness=0.18 //x=2.75 //y=0.93 //x2=2.865 //y2=0.93
r87 (  33 34 ) resistor r=112.809 //w=0.094 //l=0.22 //layer=ply \
 //thickness=0.18 //x=2.75 //y=0.93 //x2=2.53 //y2=0.93
r88 (  32 50 ) resistor r=16.5046 //w=0.27 //l=0.135 //layer=ply \
 //thickness=0.18 //x=2.505 //y=4.97 //x2=2.37 //y2=4.97
r89 (  31 38 ) resistor r=26.9307 //w=0.15 //l=0.106066 //layer=ply \
 //thickness=0.18 //x=2.745 //y=4.97 //x2=2.82 //y2=5.045
r90 (  31 32 ) resistor r=123.064 //w=0.094 //l=0.24 //layer=ply \
 //thickness=0.18 //x=2.745 //y=4.97 //x2=2.505 //y2=4.97
r91 (  26 53 ) resistor r=39.5823 //w=0.21 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=2.375 //y=1.74 //x2=2.415 //y2=1.585
r92 (  26 45 ) resistor r=182.032 //w=0.094 //l=0.355 //layer=ply \
 //thickness=0.18 //x=2.375 //y=1.74 //x2=2.375 //y2=2.095
r93 (  25 53 ) resistor r=39.5823 //w=0.21 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=2.375 //y=1.43 //x2=2.415 //y2=1.585
r94 (  24 52 ) resistor r=45.1352 //w=0.168 //l=0.173853 //layer=ply \
 //thickness=0.18 //x=2.375 //y=1.085 //x2=2.415 //y2=0.93
r95 (  24 25 ) resistor r=176.904 //w=0.094 //l=0.345 //layer=ply \
 //thickness=0.18 //x=2.375 //y=1.085 //x2=2.375 //y2=1.43
r96 (  23 38 ) resistor r=592.245 //w=0.094 //l=1.155 //layer=ply \
 //thickness=0.18 //x=2.82 //y=6.2 //x2=2.82 //y2=5.045
r97 (  22 51 ) resistor r=592.245 //w=0.094 //l=1.155 //layer=ply \
 //thickness=0.18 //x=2.38 //y=6.2 //x2=2.38 //y2=5.045
r98 (  21 35 ) resistor r=56.4043 //w=0.094 //l=0.11 //layer=ply \
 //thickness=0.18 //x=2.64 //y=1.585 //x2=2.75 //y2=1.585
r99 (  21 36 ) resistor r=56.4043 //w=0.094 //l=0.11 //layer=ply \
 //thickness=0.18 //x=2.64 //y=1.585 //x2=2.53 //y2=1.585
r100 (  20 48 ) resistor r=152 //w=0.17 //l=0.17 //layer=licon //count=1 \
 //x=2.37 //y=4.88 //x2=2.37 //y2=4.88
r101 (  10 44 ) resistor r=152 //w=0.17 //l=0.17 //layer=licon //count=1 \
 //x=2.34 //y=2.26 //x2=2.34 //y2=2.26
r102 (  8 20 ) resistor r=11.4737 //w=0.186 //l=0.172337 //layer=li \
 //thickness=0.1 //x=2.34 //y=4.715 //x2=2.355 //y2=4.88
r103 (  7 8 ) resistor r=6.50267 //w=0.187 //l=0.095 //layer=li \
 //thickness=0.1 //x=2.34 //y=4.62 //x2=2.34 //y2=4.715
r104 (  6 7 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=2.34 //y=4.25 //x2=2.34 //y2=4.62
r105 (  5 6 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=2.34 //y=3.88 //x2=2.34 //y2=4.25
r106 (  4 5 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=2.34 //y=3.51 //x2=2.34 //y2=3.88
r107 (  3 4 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=2.34 //y=3.14 //x2=2.34 //y2=3.51
r108 (  2 3 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=2.34 //y=2.77 //x2=2.34 //y2=3.14
r109 (  1 2 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=2.34 //y=2.4 //x2=2.34 //y2=2.77
r110 (  1 10 ) resistor r=9.58289 //w=0.187 //l=0.14 //layer=li \
 //thickness=0.1 //x=2.34 //y=2.4 //x2=2.34 //y2=2.26
ends PM_NAND2X1\%B

subckt PM_NAND2X1\%Y ( 1 2 3 4 5 6 7 14 15 26 28 29 39 40 42 43 )
c59 ( 43 0 ) capacitor c=0.0220291f //x=2.455 //y=5.2
c60 ( 42 0 ) capacitor c=0.0217503f //x=1.575 //y=5.2
c61 ( 40 0 ) capacitor c=0.0084702f //x=2.45 //y=1.085
c62 ( 39 0 ) capacitor c=0.00427536f //x=2.6 //y=5.38
c63 ( 29 0 ) capacitor c=0.00781917f //x=2.725 //y=1.835
c64 ( 28 0 ) capacitor c=0.0167625f //x=2.995 //y=1.835
c65 ( 26 0 ) capacitor c=0.017841f //x=2.995 //y=5.38
c66 ( 15 0 ) capacitor c=0.00387264f //x=1.805 //y=5.38
c67 ( 14 0 ) capacitor c=0.0222171f //x=2.515 //y=5.38
c68 ( 1 0 ) capacitor c=0.133595f //x=3.08 //y=2.4
r69 (  28 30 ) resistor r=7.15173 //w=0.17 //l=0.120208 //layer=li \
 //thickness=0.1 //x=2.995 //y=1.835 //x2=3.08 //y2=1.92
r70 (  28 29 ) resistor r=18.4813 //w=0.187 //l=0.27 //layer=li \
 //thickness=0.1 //x=2.995 //y=1.835 //x2=2.725 //y2=1.835
r71 (  27 39 ) resistor r=5.4201 //w=0.17 //l=0.085 //layer=li //thickness=0.1 \
 //x=2.685 //y=5.38 //x2=2.6 //y2=5.38
r72 (  26 31 ) resistor r=7.15173 //w=0.17 //l=0.120208 //layer=li \
 //thickness=0.1 //x=2.995 //y=5.38 //x2=3.08 //y2=5.295
r73 (  26 27 ) resistor r=21.2193 //w=0.187 //l=0.31 //layer=li \
 //thickness=0.1 //x=2.995 //y=5.38 //x2=2.685 //y2=5.38
r74 (  22 29 ) resistor r=7.15173 //w=0.17 //l=0.120208 //layer=li \
 //thickness=0.1 //x=2.64 //y=1.75 //x2=2.725 //y2=1.835
r75 (  22 40 ) resistor r=39.016 //w=0.187 //l=0.57 //layer=li //thickness=0.1 \
 //x=2.64 //y=1.75 //x2=2.64 //y2=1.18
r76 (  16 39 ) resistor r=1.40859 //w=0.34 //l=0.085 //layer=li \
 //thickness=0.1 //x=2.6 //y=5.465 //x2=2.6 //y2=5.38
r77 (  16 43 ) resistor r=30.1176 //w=0.187 //l=0.44 //layer=li \
 //thickness=0.1 //x=2.6 //y=5.465 //x2=2.6 //y2=5.905
r78 (  14 39 ) resistor r=5.4201 //w=0.17 //l=0.085 //layer=li //thickness=0.1 \
 //x=2.515 //y=5.38 //x2=2.6 //y2=5.38
r79 (  14 15 ) resistor r=48.5989 //w=0.187 //l=0.71 //layer=li \
 //thickness=0.1 //x=2.515 //y=5.38 //x2=1.805 //y2=5.38
r80 (  8 15 ) resistor r=7.15173 //w=0.17 //l=0.120208 //layer=li \
 //thickness=0.1 //x=1.72 //y=5.465 //x2=1.805 //y2=5.38
r81 (  8 42 ) resistor r=30.1176 //w=0.187 //l=0.44 //layer=li //thickness=0.1 \
 //x=1.72 //y=5.465 //x2=1.72 //y2=5.905
r82 (  7 31 ) resistor r=46.2032 //w=0.187 //l=0.675 //layer=li \
 //thickness=0.1 //x=3.08 //y=4.62 //x2=3.08 //y2=5.295
r83 (  6 7 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=3.08 //y=4.25 //x2=3.08 //y2=4.62
r84 (  5 6 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=3.08 //y=3.88 //x2=3.08 //y2=4.25
r85 (  4 5 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=3.08 //y=3.51 //x2=3.08 //y2=3.88
r86 (  3 4 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=3.08 //y=3.14 //x2=3.08 //y2=3.51
r87 (  2 3 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=3.08 //y=2.77 //x2=3.08 //y2=3.14
r88 (  1 2 ) resistor r=25.3262 //w=0.187 //l=0.37 //layer=li //thickness=0.1 \
 //x=3.08 //y=2.4 //x2=3.08 //y2=2.77
r89 (  1 30 ) resistor r=32.8556 //w=0.187 //l=0.48 //layer=li //thickness=0.1 \
 //x=3.08 //y=2.4 //x2=3.08 //y2=1.92
ends PM_NAND2X1\%Y

subckt PM_NAND2X1\%noxref_6 ( 1 5 9 10 13 17 29 )
c42 ( 29 0 ) capacitor c=0.0642544f //x=1.05 //y=0.545
c43 ( 17 0 ) capacitor c=0.00722223f //x=3.125 //y=0.795
c44 ( 13 0 ) capacitor c=0.0154622f //x=3.04 //y=0.71
c45 ( 10 0 ) capacitor c=0.0092508f //x=2.155 //y=1.675
c46 ( 9 0 ) capacitor c=0.006761f //x=2.155 //y=0.795
c47 ( 5 0 ) capacitor c=0.0255599f //x=2.07 //y=1.76
c48 ( 1 0 ) capacitor c=0.0113547f //x=1.185 //y=1.675
r49 (  17 29 ) resistor r=3.57586 //w=0.17 //l=0.125 //layer=li \
 //thickness=0.1 //x=3.125 //y=0.795 //x2=3.125 //y2=0.67
r50 (  17 29 ) resistor r=18.139 //w=0.187 //l=0.265 //layer=li \
 //thickness=0.1 //x=3.125 //y=0.795 //x2=3.125 //y2=1.06
r51 (  14 29 ) resistor r=3.57586 //w=0.17 //l=0.103078 //layer=li \
 //thickness=0.1 //x=2.24 //y=0.71 //x2=2.155 //y2=0.67
r52 (  14 29 ) resistor r=27.3797 //w=0.187 //l=0.4 //layer=li //thickness=0.1 \
 //x=2.24 //y=0.71 //x2=2.64 //y2=0.71
r53 (  13 29 ) resistor r=3.57586 //w=0.17 //l=0.103078 //layer=li \
 //thickness=0.1 //x=3.04 //y=0.71 //x2=3.125 //y2=0.67
r54 (  13 29 ) resistor r=27.3797 //w=0.187 //l=0.4 //layer=li //thickness=0.1 \
 //x=3.04 //y=0.71 //x2=2.64 //y2=0.71
r55 (  10 29 ) resistor r=3.57586 //w=0.17 //l=0.125 //layer=li \
 //thickness=0.1 //x=2.155 //y=1.675 //x2=2.155 //y2=1.8
r56 (  10 29 ) resistor r=42.0963 //w=0.187 //l=0.615 //layer=li \
 //thickness=0.1 //x=2.155 //y=1.675 //x2=2.155 //y2=1.06
r57 (  9 29 ) resistor r=3.57586 //w=0.17 //l=0.125 //layer=li //thickness=0.1 \
 //x=2.155 //y=0.795 //x2=2.155 //y2=0.67
r58 (  9 29 ) resistor r=18.139 //w=0.187 //l=0.265 //layer=li //thickness=0.1 \
 //x=2.155 //y=0.795 //x2=2.155 //y2=1.06
r59 (  6 29 ) resistor r=3.57586 //w=0.17 //l=0.103078 //layer=li \
 //thickness=0.1 //x=1.27 //y=1.76 //x2=1.185 //y2=1.8
r60 (  6 29 ) resistor r=27.3797 //w=0.187 //l=0.4 //layer=li //thickness=0.1 \
 //x=1.27 //y=1.76 //x2=1.67 //y2=1.76
r61 (  5 29 ) resistor r=3.57586 //w=0.17 //l=0.103078 //layer=li \
 //thickness=0.1 //x=2.07 //y=1.76 //x2=2.155 //y2=1.8
r62 (  5 29 ) resistor r=27.3797 //w=0.187 //l=0.4 //layer=li //thickness=0.1 \
 //x=2.07 //y=1.76 //x2=1.67 //y2=1.76
r63 (  1 29 ) resistor r=3.57586 //w=0.17 //l=0.125 //layer=li //thickness=0.1 \
 //x=1.185 //y=1.675 //x2=1.185 //y2=1.8
r64 (  1 29 ) resistor r=42.0963 //w=0.187 //l=0.615 //layer=li \
 //thickness=0.1 //x=1.185 //y=1.675 //x2=1.185 //y2=1.06
ends PM_NAND2X1\%noxref_6

